US09227962B2
To the solution of 5-bromoindolin-2-one (262 mg, 1.24 mmol) in EtOH (5 ml) was added N-(2-(diethylamino)ethyl)-5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxamide (298 mg, 1.12 mmol) and piperidine (112 μL, 1.13 mmol). The mixture was stirred at 80° C. for 1 hour. After cooled down to room temperature, the reaction mixture was concentrated, filtrated, and washed with EtOH to give (Z)-5-((5-bromo-2-oxoindolin-3-ylidene)methyl)-N-(2-(diethylamino)ethyl)-2,4-dimethyl-1H-pyrrole-3-carboxamide (368 mg) as orange solid.

reactant | 5-bromoindolin-2-one | 1.24 mmol, 262 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | N-(2-(diethylamino)ethyl)-5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxamide | 1.12 mmol, 298 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
reactant | piperidine | 1.13 mmol, 112 μL | N1CCCCC1 | C5H11N
solvent | EtOH | 5 ml | CCO | C2H6O
product | (Z)-5-((5-bromo-2-oxoindolin-3-ylidene)methyl)-N-(2-(diethylamino)ethyl)-2,4-dimethyl-1H-pyrrole-3-carboxamide | 368 mg | BrC=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)NCCN(CC)CC)C | C22H27BrN4O2
